US07943619B2
6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid cyclopropylamide
As described for example 52, 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (143 mg, 0.4 mmol) was converted, using cyclopropylamine instead of ethanolamine, to the title compound (122 mg, 83%) which was obtained as an off white solid. MS: m/e=369.0 [M+H]+.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.4 mmol, 143 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H16FN3O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid cyclopropylamide | 122 mg, 83% | C1(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C19H17FN4O3
